US05235068
In 50 ml of dichloroethane were dissolved 9.41 g (0.05 mole) of suberic acid monomethyl ester and 9.83 g (0.0575 mole) of monochloroacetic anhydride. To the resulting solution were added 5.47 g (0.065 mole) of thiophene and 0.71 g of boron trifluoride-diethyl ether complex and the resulting mixture was then stirred at 60° C. for 5 hours. After completion of the reaction, the reaction solution was cooled and washed successively with water, 5% aqueous sodium carbonate solution and water. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 11.5 g of 2-(7-methoxycarbonyl-1-oxoheptyl)thiophene.

reactant | suberic acid monomethyl ester | 0.05 mole, 9.41 g | COC(CCCCCCC(=O)O)=O | C9H16O4
reactant | monochloroacetic anhydride | 0.0575 mole, 9.83 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | thiophene | 0.065 mole, 5.47 g | S1C=CC=C1 | C4H4S
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 2-(7-methoxycarbonyl-1-oxoheptyl)thiophene | 11.5 g, Yield: 91% | COC(=O)CCCCCCC(=O)C=1SC=CC1 | C13H18O3S
